Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
 
None

 
History of Present Illness:
Patent is a ___ female with PMH of AML ___ years s/p matched 
related donor transplant with complications of chronic, 
extensive, mild GVHD 
involving the lungs and skin (now resolved) on chronic 
prednisone who presents to the ER with nausea, vomiting, and 
diarrhea x 24 hours. Her symptoms started ___ with several 
episodes of non-bloody, watery diarrhea which then progressed to 
nausea, non-bloody vomiting, and then to dry heaves.  She has an 
associated mild frontal headache Tmax 100.1, weakness, 
rinorrhea.  She denies any cough, shortness of breath, sore 
throat, sick contacts, change in her diet, or recent travel.  
She has been on her current dose of Prednisone 7.5mg for at 
least 30 days.  No neck stiffness, focal neuro deficits.  She is 
unable to keep down pills, solids, or sips of water. 
.
Vitals in the ER: 97.8 105 114/58 16 96% RA.  She received 
Toradol 30mg IV, Zofran, Magnesium 2g IV, and 2L NS. On arrival 
to the floor, she says the medicine in the ER made her feel 
significantly better.  
.
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies cough, shortness of breath, or wheezing. Denies chest 
pain, chest pressure, palpitations, constipation, abdominal 
pain. Denies dysuria, frequency, or urgency. Denies arthralgias 
or myalgias. Denies rashes or skin changes. All other ROS 
negative 
.

 
Past Medical History:
.
PAST ONCOLOGIC HISTORY:  
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- repeat bone marrow biopsy showed acute erythroleukemia  
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (___) ___  
- complicated by GVHD of the skin and lungs, on Prednisone 7.5mg 

currently  
.  
OTHER MEDICAL HISTORY:  
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (___-LAD) 
___  
- Afib  
- Diverticulitis, hx of perforated diverticulum ___ ___ 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___  
- CHF with EF 40-45%  
Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus  
- Diverticulosis  
- Occasional bronchospasm  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  
- basal cell carcinoma-s/p electrodessication and curettage on  
___  
- tonsillectomy at the age of ___;  
- D&C for question of some polyps back in ___  
- Hospitalization for pneumonia ___ - ___

.
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Admission Exam
Vitals: T 98.1  bp 137/46  hr 96  rr 18  SaO2 99RA 
GEN: tired but awake, alert
HEENT: supple neck, dry mucous membranes, no oropharyngeal 
lesions
PULM: normal effort, CTAB
CV: RRR, no r/m/g/heaves
ABD: soft, NT, ND, bowel sounds resent
EXT: normal perfusion
SKIN: warm, dry
NEURO: AOx3, no focal sensory or motor deficits
PSYCH: calm, cooperative

Discharge Exam
Vitals: T 98.1 bp 108/56 hr 74 rr 18 SaO2 96RA  
GEN: tired but awake, alert  
HEENT: supple neck, dry mucous membranes, no oropharyngeal 
lesions  
PULM: normal effort, very mild increased breath sounds L base  
CV: RRR, no r/m/g/heaves  
ABD: soft, NT, ND, bowel sounds resent  
EXT: normal perfusion  
SKIN: warm, dry  
NEURO: AOx3, no focal sensory or motor deficits  
PSYCH: calm, cooperative  

 
Pertinent Results:
Admission Labs
___ 07:20PM   LACTATE-2.2*
___ 07:15PM   GLUCOSE-155* UREA N-14 CREAT-1.2* SODIUM-136 
POTASSIUM-4.2 CHLORIDE-98 TOTAL CO2-21* ANION GAP-21*
___ 07:15PM   cTropnT-<0.01
___ 07:15PM   CALCIUM-10.1 PHOSPHATE-3.8 MAGNESIUM-1.7
___ 07:15PM   WBC-10.2 RBC-4.93 HGB-15.1 HCT-46.3 MCV-94 
MCH-30.7 MCHC-32.7 RDW-15.9*
___ 07:15PM   NEUTS-62.0 ___ MONOS-8.2 EOS-1.5 
BASOS-0.4
___ 07:15PM   PLT COUNT-268
___ 07:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-SM 
___ 07:00PM URINE  RBC-2 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-1
.
Discharge Labs
___ 07:30AM BLOOD WBC-5.4 RBC-4.19* Hgb-12.9 Hct-38.8 
MCV-93 MCH-30.7 MCHC-33.1 RDW-15.9* Plt ___
___ 07:30AM BLOOD Neuts-43* Bands-2 ___ Monos-13* 
Eos-2 Baso-0 Atyps-2* ___ Myelos-0
___ 07:30AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Ovalocy-1+ Burr-1+
___ 07:30AM BLOOD Glucose-93 UreaN-10 Creat-1.0 Na-142 
K-4.1 Cl-109* HCO3-22 AnGap-15
___ 07:05AM BLOOD ALT-21 AST-26 AlkPhos-43 TotBili-0.3
___ 07:05AM BLOOD ALT-21 AST-26 AlkPhos-43 TotBili-0.3
___ 07:30AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.9
___ 01:37PM BLOOD ___ Comment-GREEN TOP
___ 01:37PM BLOOD Lactate-1.8

Micro
Respiratory Viral Culture (Pending): 

   Respiratory Viral Antigen Screen (Final ___: 
      Less than 60 columnar epithelial cells;. 
      Specimen inadequate for detecting respiratory viral 
infection by DFA
      testing. 
      Interpret all negative results from this specimen with 
caution. 
      Negative results should not be used to discontinue 
precautions. 
      Refer to respiratory viral culture results. 
      Recommend new sample be submitted for confirmation. 
      Reported to and read back by ___ ___ AT 
1127.

UCx- pending
BCx x 2- pending
 
Brief Hospital Course:
___ y/o F with PMHx significant for AML ___ years ago s/p matched 
related donor transplant with complications of chronic, 
extensive, mild GVHD involving the lungs and skin (now resolved) 
on chronic prednisone who presents to the ER with nausea, 
vomiting, and diarrhea consistent with viral gastroenteritis  

#Nausea, vomiting, and diarrhea consistent with a viral 
gastroenteritis.  Patient presented with the aforementioned 
symptoms without associated fevers, chills, chest pain, 
shortness of breath, cough.  She was ruled out for the flu with 
a negative DFA.  We resent a resp viral panel as there was  no 
initial culture sent, so that is currently pending.  She was 
given a total of 4 liters IVF.  The patient's symptoms quickly 
resolved and she tolerated a regular diet before discharge  
   
# Hx of AML s/p BMT complicated by GVHD of lung, gut, and skin. 
Not currently active.  Patient was continued on the following 
prophylactic34 regimens  
- Cont Prednisone 7.5mg PO daily
- Acyclovir PPx (increase from q12 to q8 based on renal 
function)  
- Cont Advair, Singulair (Hx of lung GVHD)
.  
# DM2 - controlled on oral medications  
- Held home meds  
- Continued ISS  

#CKD Stage III - stable with Cr 1.2; held ACE given hypovolemia  

  
#CAD s/p STEMI. 
- continued aspirin, metoprolol, lisinopril and atorvastatin.  
.  
#PPx - received SC heparin  

Transitional Issues
-Patient needs follow up on respiratory viral culture, urine 
culture, and blood cultures
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 7.5 mg PO DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety, insomnia 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Docusate Sodium 100 mg PO DAILY 
7. Famotidine 20 mg PO BID:PRN heartburn 
8. Atorvastatin 80 mg PO DAILY 
9. Montelukast Sodium 10 mg PO DAILY 
10. Acyclovir 400 mg PO Q12H 
11. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
12. Omeprazole 20 mg PO BID 
13. Calcium Carbonate 600 mg PO DAILY 
14. Magnesium Oxide 500 mg PO DAILY 
15. Aspirin 162 mg PO DAILY 
16. albuterol sulfate *NF* 90 mcg/actuation Inhalation q4 PRN  
dyspnea 
17. GlipiZIDE XL 2.5 mg PO DAILY 
18. Cyanocobalamin 500 mcg PO DAILY 
19. Vitamin D 1000 UNITS PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 162 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Famotidine 20 mg PO BID:PRN heartburn 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
6. Lorazepam 0.5-1 mg PO Q4H:PRN nausea, anxiety, insomnia 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Omeprazole 20 mg PO BID 
9. PredniSONE 7.5 mg PO DAILY 
10. albuterol sulfate *NF* 90 mcg/actuation Inhalation q4 PRN  
dyspnea 
11. Calcium Carbonate 600 mg PO DAILY 
12. Cyanocobalamin 500 mcg PO DAILY 
13. Docusate Sodium 100 mg PO DAILY 
14. GlipiZIDE XL 2.5 mg PO DAILY 
15. Lisinopril 2.5 mg PO DAILY 
16. Magnesium Oxide 500 mg PO DAILY 
17. MetFORMIN (Glucophage) 500 mg PO BID 
18. Montelukast Sodium 10 mg PO DAILY 
19. Vitamin D 1000 UNITS PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ was a pleasure taking care of you while at ___.  You were 
admitted for nausea, vomiting, and diarrhea thought to be from a 
viral infection in your gastrointestinal tract.  You received 
fluids and were also continued on your home medications except 
your lisinopril which was held because we didn't want to 
decrease your blood pressure too much.  You were able to eat 
without any further nausea, vomiting, and diarrhea.

You were not started on any new medications during this 
hospitalization
 
Followup Instructions:
___